US07786115B2
A mixture of 3-[7-(3-chloropropyl)-1-oxoisoquinolin-2(1H)-yl]-N-cyclopropyl-4-methylbenzamide and 3-[7-(3-bromopropyl)-1-oxoisoquinolin-2(1H)-yl]-N-cyclopropyl-4-methylbenzamide (3:1, 0.18 g), potassium iodide (0.14 g), 1-propionylpiperazine (0.38 g) were stirred in DMA (4.5 ml) and heated under microwave irradiation conditions (Personal Chemistry Emrys Optimizer with 300 W magnetron) at 150° C. for 90 minutes. The reaction mixture was diluted with ethyl acetate and washed with water (×5), brine (×2), dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting using a gradient of methylene chloride to 6% methano/methylene chloride gave N-cyclopropyl-4-methyl-3-[1-oxo-7-[3-(4-propionylpiperazin-1-yl)propoxy]isoquinolin-2(1H)-yl]benzamide (0.174 g) as a white foam; NMR Spectrum: (CDCl3) 0.57 (m, 2H), 0.82 (m, 2H), 1.14 (t, 3H), 2.02 (m, 2H), 2.19 (s, 3H), 2.33 (q, 2H), 2.44 (m, 4H), 2.56 (t, 2H), 2.85 (m, 1H), 3.47 (m, 2H), 3.63 (m, 2H), 4.16 (t, 2H), 6.46 (s, 1H), 6.51 (d, 1H), 6.86 (d, 1H), 7.29 (m, 1H), 7.39 (d, 1H), 7.47 (d, 1H), 7.61 (d, 1H), 7.75 (d, 1H), 7.81 (d, 1H); Mass Spectrum: M+H+ 517.

reactant | 3-[7-(3-chloropropyl)-1-oxoisoquinolin-2(1H)-yl]-N-cyclopropyl-4-methylbenzamide | ClCCCC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)NC2CC2)C=CC1C | C23H23ClN2O2
reactant | 3-[7-(3-bromopropyl)-1-oxoisoquinolin-2(1H)-yl]-N-cyclopropyl-4-methylbenzamide | 0.18 g | BrCCCC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)NC2CC2)C=CC1C | C23H23BrN2O2
reactant | potassium iodide | 0.14 g | [I-].[K+]
reactant | 1-propionylpiperazine | 0.38 g | C(CC)(=O)N1CCNCC1 | C7H14N2O
solvent | DMA | 4.5 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclopropyl-4-methyl-3-[1-oxo-7-[3-(4-propionylpiperazin-1-yl)propoxy]isoquinolin-2(1H)-yl]benzamide | 0.174 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)OCCCN1CCN(CC1)C(CC)=O)=O)=O | C30H36N4O4
